US06660753B2
A solution of 2-bromoacetylpyridine (1.0 g, 5 mmol) in toluene (5 mL) was treated with 3-bromo-5-iodobenzamide (2.0 g, 6 mmol) and the mixture heated at reflux for 60 hours. The mixture was then cooled and the solvent was removed in vacuo. Silica gel chromatography using a gradient of hexane to ethyl acetate afforded 10 mg (1%) of 2-(3-bromo-5-iodophenyl)-4-(pyridin-2-yl)-1,3-oxazole: 1H-NMR (CDCl3), δ ppm: 8.62 (d, 1H), 8.42 (m, 1H), 8.38 (s, 1H), 8.24 (m, 1H), 8.00 (t, 1H), 7.95 (d, 1H), 7.8 (m, 1H), 7.27 (m, 1H).

reactant | 2-bromoacetylpyridine | 5 mmol, 1.0 g | BrCC(=O)C1=NC=CC=C1 | C7H6BrNO
reactant | 3-bromo-5-iodobenzamide | 6 mmol, 2.0 g | BrC=1C=C(C(=O)N)C=C(C1)I | C7H5BrINO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-bromo-5-iodophenyl)-4-(pyridin-2-yl)-1,3-oxazole | 10 mg, 1% | BrC=1C=C(C=C(C1)I)C=1OC=C(N1)C1=NC=CC=C1 | C14H8BrIN2O
